US06831081B2
N-(4-Chlorobenzyl)-2-((2-chloro-5-(morpholin-4-ylmethyl)thien-3-yl)carbonyl)-3-((2-morpholin-4-ylethyl)amino)acrylamide.
A mixture of N-(4-chlorobenzyl)-3-(2-chloro-5-(morpholin-4-ylmethyl)thien-3-yl)-3-oxopropanamide (Preparation 20, 20.0 g), triethylorthoformate (15.4 mL), and acetic anhydride (15.4 mL) is heated to 150° C. with removal of the distillate with a Dean-Stark trap. After 3 h, the volatiles are removed at 40 Torr (50° C.) and then at 0.2 Torr (100° C.) for 1 h to afford a brown oil. A portion of this residue (10.0 g) is dissolved in ethanol (150 mL) and N-aminoethylmorpholine (4.1 g) is added. The mixture is stirred at room temperature for 24 h and then is concentrated in vacuo. The crude product is purified by column chromatography (CH2Cl2/methanol, 97/3) to afford 4.28 g of the title compound as a brown oil. Physical characteristics. 1H NMR (300 MHz, DMSO-d6) δ 10.51, 9.89, 7.62, 7.58, 7.37, 6.92, 4.44, 3.62, 3.58, 3.47, 3.40, 2.42, 2.32.

reactant | N-(4-chlorobenzyl)-3-(2-chloro-5-(morpholin-4-ylmethyl)thien-3-yl)-3-oxopropanamide | 20.0 g | ClC1=CC=C(CNC(CC(=O)C2=C(SC(=C2)CN2CCOCC2)Cl)=O)C=C1 | C19H20Cl2N2O3S
reactant | triethylorthoformate | 15.4 mL | C(C)OC(OCC)OCC | C7H16O3
reactant | acetic anhydride | 15.4 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | N-aminoethylmorpholine | 4.1 g | NCCN1CCOCC1 | C6H14N2O
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | N-(4-Chlorobenzyl)-2-((2-chloro-5-(morpholin-4-ylmethyl)thien-3-yl)carbonyl)-3-((2-morpholin-4-ylethyl)amino)acrylamide | 4.28 g | ClC1=CC=C(CNC(C(=CNCCN2CCOCC2)C(=O)C2=C(SC(=C2)CN2CCOCC2)Cl)=O)C=C1 | C26H32Cl2N4O4S
